US04770692
1.1 g (0.011 mol) of methyl lactate are added dropwise to a suspension of 0.4 g (0.11 mol) of sodium hydride in 100 ml of anhydrous tetrahydrofuran. When the hydrogen evolution has ceased, a solution of 3.5 g (0.01 mol) of 1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-5-methanesulphonyl-pyrazole (Ex. I-4) in tetrahydrofuran is added dropwise. After stirring at room temperature for 1 hour, some starting pyrazole can still be detected by thin-layer chromatography. After addition of a further 0.04 g of sodium hydride and 0.1 g of methyl lactate and stirring f 2 hours, starting pyrazole can no longer be detected by thin-layer chromatography. The reaction batch is concentrated in vacuo, the residue is distributed between water and methylene chloride, and the methylene chloride phase is washed with water, dried over sodium sulphate and concentrated in vacuo. The oily residue crystallizes overnight. After trituration with petroleum ether and filtering off, 2.3 g (62% of theory) of 1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-5 -(1-methoxycarbonylethoxy)-pyrazole of melting point 82°-85° C. are obtained.

reactant | methyl lactate | 0.011 mol, 1.1 g | C(C(O)C)(=O)OC | C4H8O3
reactant | sodium hydride | 0.11 mol, 0.4 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-5-methanesulphonyl-pyrazole | 0.01 mol, 3.5 g | ClC1=C(C=CC(=C1)C(F)(F)F)N1N=CC(=C1S(=O)(=O)C)C#N | C12H7ClF3N3O2S
reactant | pyrazole | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | 0.04 g | [H-].[Na+]
reactant | methyl lactate | 0.1 g | C(C(O)C)(=O)OC | C4H8O3
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1-(2-chloro-4-trifluoromethyl-phenyl)-4-cyano-5 -(1-methoxycarbonylethoxy)-pyrazole | 2.3 g, 62% | ClC1=C(C=CC(=C1)C(F)(F)F)N1N=CC(=C1OC(C)C(=O)OC)C#N | C15H11ClF3N3O3
